* tonewheel91 warmth reference -- one 12AX7-family self-bias gain stage.
*
* Dev-side referee for the sec 14.1 drive stage (docs/warmth-evidence.md):
* a circuit-true single triode whose measured warmth signature (H2/H1 and
* H3/H1 vs level, gain compression, bias trajectory, H2 onset) is the
* ground truth the behavioral stage is scored against. Never a build
* dependency -- run by hand via `make warmth-ref` when recalibrating.
*
* Tube: Koren triode model with the published 12AX7 parameter set
* (MU=100 EX=1.4 KG1=1060 KP=600 KVB=300 RGI=2k) -- sec 14 names the
* 12AX7 family as control-stage flavor; no component values were read
* from the preamp schematic, so the surrounding network is the generic
* textbook stage: 250 V supply, 100k plate load, 1.5k/25u self-bias,
* 22n couplings into 1 Meg. The softplus in BE is the overflow-safe form
* of the Koren ln(1+exp(.)) so Newton excursions cannot produce inf.

.subckt t12ax7 p g k
BU  u  0 V = 600*(0.01 + V(g,k)/sqrt(300 + V(p,k)*V(p,k)))
RU  u  0 1G
BE  e1 0 V = V(p,k)/600 * (V(u) > 0 ? V(u) + ln(1+exp(-V(u))) : ln(1+exp(V(u))))
RE  e1 0 1G
BGP p  k I = 2*pwr(max(V(e1),0),1.4)/1060
RCP p  k 1G
C1  g  k 2.3p
C2  g  p 2.4p
C3  p  k 0.9p
D3  gd k dgrid
R1  g  gd 2k
.model dgrid D(IS=1n RS=1 CJO=10p)
.ends

VBP bp  0 DC 250
VIN in  0 DC 0 SIN(0 0.3 240)
RS  in  s1 1k
CIN s1  g  22n
RGL g   0  1meg
XT  p   g  k t12ax7
RA  bp  p  100k
RK  k   0  1.5k
CK  k   0  25u
COUT p  out 22n
RL  out 0  1meg

.options reltol=1e-4 abstol=1e-12 vntol=1e-9 noacct

.control
set wr_singlescale
set wr_vecnames
unset askquit
op
print v(p) v(k) v(g) v(out)
* Level sweep at 240 Hz: 48000/240 = 200 samples/period exactly, so the
* analyzer's integer-period DFT windows are leakage-free. tran grid
* 1/48000 s (linearize target), internal step capped at 2 us; save from
* 0.4 s -- roughly ten cathode time constants of settling.
foreach a 0.02 0.05 0.1 0.15 0.2 0.3 0.5 0.7 1.0 1.5 2.0 3.0
  alter @vin[sin] = [ 0 $a 240 ]
  tran 20.833333333333u 0.9 0.4 2u
  linearize v(out) v(k) v(g)
  wrdata build/spice/lvl_240_{$a}.txt v(out) v(k) v(g)
  destroy all
end
* Frequency-independence check at 0.3 V (48000/120 = 400, 48000/480 = 100).
foreach f 120 480
  alter @vin[sin] = [ 0 0.3 $f ]
  tran 20.833333333333u 0.9 0.4 2u
  linearize v(out) v(k) v(g)
  wrdata build/spice/freq_{$f}.txt v(out) v(k) v(g)
  destroy all
end
* Onset: settled quiet, tone starts at t = 0.5 s (SIN delay), capture
* from 0.45 s -- the H2 rise and the cathode/grid bias walk.
alter @vin[sin] = [ 0 0.5 240 0.5 ]
tran 20.833333333333u 1.2 0.45 2u
linearize v(out) v(k) v(g)
wrdata build/spice/onset_240_0.5.txt v(out) v(k) v(g)
destroy all
quit
.endc

.end
